US08252833B2
1,4-Bis(ethyloxy)-2,3-naphthalenedicarboxylic acid
Diethyl 1,4-bis(ethyloxy)-2,3-naphthalenedicarboxylate (24.8 g, 68.8 mmol) was suspended in ethanol (200 ml) and treated with sodium hydroxide (8.3 g, 206.4 mmol) dissolved in 200 ml of water. A further 50 ml of ethanol added to aid stirring. Heated to reflux, 100° C. All in solution on heating. Refluxed for 8 hours. Cooled to room temperature and stood overnight. Solvent was evaporated to almost dryness. Water was added and stirred in an ice bath. Acidified with 2M HCl solution (˜150 ml). The white precipitate was filtered, washed with water and dried in a vacuum oven to give the title compound as a white solid (18.77 g, 61.7 mmol).

reactant | Diethyl 1,4-bis(ethyloxy)-2,3-naphthalenedicarboxylate | 68.8 mmol, 24.8 g | C(C)OC1=C(C(=C(C2=CC=CC=C12)OCC)C(=O)OCC)C(=O)OCC | C20H24O6
reactant | sodium hydroxide | 206.4 mmol, 8.3 g | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,4-Bis(ethyloxy)-2,3-naphthalenedicarboxylic acid | 61.7 mmol, 18.77 g | C(C)OC1=C(C(=C(C2=CC=CC=C12)OCC)C(=O)O)C(=O)O | C16H16O6
